US07566561B2
Purification of the AA560 Alpha-Amylase
The culture broth was flocculated by adding 0.01 ml 50% (w/w) CaCl2, 2H2O, 0.0125 ml 12% (w/w) Sodium aluminate, 0.025 ml 10% C521 and 0.075 ml 0.1% A130 pr. ml culture broth. A clear solution was obtained after centrifugation. The enzyme solution was added ammonium sulphate to a final concentration of 1.2 M and applied on a Butyl Toyo Pearl column (100 ml) previously equilibrated in 1.2 M ammonium sulphate, 10 mM Tris-HCl, pH 7.0. The amylase was eluted using 5 mM Tris-HCl, pH 7.0 and the eluted pool was dialysed against 5 mM Tris-HCl over night. The fraction was then subjected to ion exchange chromatography using a Q-Sepharose column (200 ml) previously equilibrated in 20 mM Tris-HCl, pH 9.0. Unbound material was washed out with the equilibration buffer, and the amylase was eluted using a linear gradient 0-1 M NaCl, 20 mM Tris-HCl, pH 9.0. Purity of the amylase preparation was above 95% judged by SDS-PAGE.

reactant | CaCl2 | 0.01 ml | [Cl-].[Cl-].[Ca+2]
reactant | Sodium aluminate | 0.0125 ml | O=[Al-]=O.[Na+]
reactant | Tris-HCl | 10 mM | C(C(CO)(CO)N)O.Cl
reactant | SDS | CCCCCCCCCCCCOS(=O)(=O)[O-].[Na+]
reactant | ammonium sulphate | 1.2 M | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
product | AA560 | CC(C)(C(=O)NC1=CC(=C(C(=C1)Cl)Cl)Cl)O | C10H10Cl3NO2
